US05929085
To a stirred mixture of 2,3,4,6,11,11a-hexahydro-1H-pyrazino[1,2-b]isoquinolin-8-amine trihydrochloride (1.8 g, 5.76 mmol) and methyl sulfoxide (20 ml) was added pyridine (0.94 ml) followed by S-methyl-2-thiophenethiocarboximide hydroiodide (2.13 g). The mixture was heated at 50° C., with stirring, for 7 h. The reaction mixture was then poured into water (150 ml) and, after stirring for 1 hour, the mixture was clarified by filtration. The filtrate was basified with 2.5N sodium hydroxide solution but no precipitate formed. An attempt to extract the product into dichloromethane caused the product to crystallize from the mixture. The product was isolated, washed with dichloromethane and dried; yield 1.28 g. This material was purified by chromatography using silica gel and 7% methanol saturated with ammonia in dichloromethane to yield N-(2,3,4,6,11,11a-hexahydro-1H-pyrazino[1,2-b]isoquinolin-8-yl)-2-thiophenecarboximidamide (0.83 g), m.p. 228° C. (dec.), MS 313 (M+H)+.

reactant | 2,3,4,6,11,11a-hexahydro-1H-pyrazino[1,2-b]isoquinolin-8-amine trihydrochloride | 5.76 mmol, 1.8 g | Cl.Cl.Cl.C1NCCN2CC=3C=C(C=CC3CC21)N
reactant | methyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
reactant | pyridine | 0.94 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 150 ml | O | H2O
product | N-(2,3,4,6,11,11a-hexahydro-1H-pyrazino[1,2-b]isoquinolin-8-yl)-2-thiophenecarboximidamide | 0.83 g | C1NCCN2CC=3C=C(C=CC3CC21)NC(=N)C=2SC=CC2 | C17H20N4S
